US08304557B2
A mixture of 5-(3-nitrophenoxy)pyridin-2-amine (2.70 g, 11.7 mmol), p-toluenesulfonyl chloride (2.67 g, 14.0 mmol) and pyridine (20 mL) was stirred at 80° C. for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure. The residue was collected by filtration and washed with ethyl acetate-hexane to give 4-methyl-N-[5-(3-nitrophenoxy)pyridin-2-yl]benzenesulfonamide (4.15 g, 92%) as a white solid. A mixture of 4-methyl-N-[5-(3-nitrophenoxy)pyridin-2-yl]benzenesulfonamide (4.15 g, 10.7 mmol) thus-obtained, N,N-diisopropylethylamine (2.44 mL, 14.0 mmol) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 2 hr, iodoacetamide (2.59 g, 14.0 mmol) was added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (5.28 g, 99%) as a white solid.

reactant | 5-(3-nitrophenoxy)pyridin-2-amine | 11.7 mmol, 2.70 g | [N+](=O)([O-])C=1C=C(OC=2C=CC(=NC2)N)C=CC1 | C11H9N3O3
reactant | p-toluenesulfonyl chloride | 14.0 mmol, 2.67 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-methyl-N-[5-(3-nitrophenoxy)pyridin-2-yl]benzenesulfonamide | 4.15 g, 92% | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C18H15N3O5S
